* /Users/manoelribeiroalmeida/dev/trit/LTspice/TNAND.asc
.subckt TNAND a b vcc vee out
M1 N001 a P001 P001 PMOS
M2 P002 b vee vee NMOS
M3 P001 b vcc vcc PMOS
M4 N002 a P002 P002 NMOS
R5 out N001 10k
R6 out N002 10k
.model NMOS NMOS
.model PMOS PMOS
.lib /Users/manoelribeiroalmeida/Library/Application Support/LTspice/lib/cmp/standard.mos
.backanno
.ends
